US08754019B2
In the same manner as in Example 1 except for using 25 g of malonic acid, 28 g of succinic acid and 156 g of benzyl alcohol in place of 50 g of malonic acid, 125 g of benzyl alcohol and 40 g of 2-phenoxyethanol, 121 g of a mixture of dibenzyl malonate (50%) and dibenzyl succinate (50%) was obtained.

reactant | malonic acid | 25 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | succinic acid | 28 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | benzyl alcohol | 156 g | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl alcohol | 125 g | C(C1=CC=CC=C1)O | C7H8O
reactant | 2-phenoxyethanol | 40 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | dibenzyl malonate | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
product | dibenzyl succinate | 50% | C(CCC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C18H18O4
